US07834010B2
Preparation of intermediate methyl 3,4-dihydro-2H-[1,3]oxazino[3,2-a]indole-10-carboxylate
Methyl 2-(3-chloropropoxy)indole-3-carboxylate (5.0 g, 18.7 mmol) was added to a stirred mixture of 5.4 M aqueous M NaOH (3.8 ml) and toluene (50 ml) and heated at 40° C. for 4 h. The aqueous layer was separated and the organic layer washed with H2O (3×25 ml) while maintaining the temperature at 60° C. The organic solvent was evaporated in vacuo to leave the product as a white solid (4.0 g, 93.2%).

reactant | Methyl 2-(3-chloropropoxy)indole-3-carboxylate | 18.7 mmol, 5.0 g | ClCCCOC=1NC2=CC=CC=C2C1C(=O)OC | C13H14ClNO3
reactant | NaOH | 3.8 ml | [OH-].[Na+]
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | methyl 3,4-dihydro-2H-[1,3]oxazino[3,2-a]indole-10-carboxylate | 4.0 g, 93.2% | O1CCCN2C1=C(C=1C=CC=CC21)C(=O)OC | C13H13NO3
